US07858646B2
Synthesis of 2-(3-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio) isonicotinonitrile
Using the method of Preparation 166 using 2-(3-(hydroxymethyl)phenylthio) isonicotinonitrile (1.25 g, 5.15 mmol) and 1-(2,4-dihydroxy-3-propylphenyl)ethanone (1.00 g, 5.15 mmol) affords the title compound (1.75 g, 81%). MS (APCI-neg) m/z (rel intensity): 417 (M−H, 100%).

reactant | 2-(3-(hydroxymethyl)phenylthio) isonicotinonitrile | 5.15 mmol, 1.25 g | OCC=1C=C(C=CC1)SC=1C=C(C#N)C=CN1 | C13H10N2OS
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 5.15 mmol, 1.00 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
product | 2-(3-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio) isonicotinonitrile | 1.75 g, 81% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=C(C#N)C=CN2)C=C1)CCC)O | C24H22N2O3S
